US09278983B2
To a mixture of tert-butylthiol (0.67 g) and DMF (12 ml), sodium hydride (60% in oil) was added under ice-cooling. The mixture was stirred under ice-cooling for 10 minutes, and then 2-(2-fluorophenyl)-3-methyl-6-trifluoromethyl-3H-imidazo[4,5-b]pyridine (1.09 g) was added. The mixture was stirred at room temperature for 1 hour, and then stirred with heating at 60° C. for 1.5 hours, then at 80° C. for 2 hours. Into the reaction mixture cooled to room temperature, saturated aqueous sodium hydrogen carbonate solution was poured, and extracted with ethyl acetate. The organic layer was dried over magnesium sulfate, and concentrated under reduced pressure. The resulting residue was subjected to silica gel column chromatography to give 1.19 g of 2-(2-tert-butylsulfanylphenyl)-3-methyl-6-trifluoromethyl-3H-imidazo[4,5-b]pyridine (hereinafter referred to as Present Compound 15).

reactant | tert-butylthiol | 0.67 g | CC(C)(C)S | C4H10S
reactant | sodium hydride | [H-].[Na+]
reactant | 2-(2-fluorophenyl)-3-methyl-6-trifluoromethyl-3H-imidazo[4,5-b]pyridine | 1.09 g | FC1=C(C=CC=C1)C1=NC=2C(=NC=C(C2)C(F)(F)F)N1C | C14H9F4N3
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | DMF | 12 ml | CN(C)C=O | C3H7NO
product | 2-(2-tert-butylsulfanylphenyl)-3-methyl-6-trifluoromethyl-3H-imidazo[4,5-b]pyridine | 1.19 g | C(C)(C)(C)SC1=C(C=CC=C1)C1=NC=2C(=NC=C(C2)C(F)(F)F)N1C | C18H18F3N3S
